US06048878
1. 1-tert-Butyloxycarbonyl-4-hydroxy-4-(2-trimethylsilylethynyl)-piperidine
To a cooled (-40° C.) solution of trimethylsilylacetylene (34 ml 241 mmol) in anhydrous tetrahydrofuran (400 ml) under an atmosphere of nitrogen was added slowly n-butyl lithium (96 ml of a 2.5. M solution in hexanes, 241 mmol). After addition the mixture was stirred at -40° C. for 1 hour then cooled to -78° C. To this mixture was added via a cannula a solution of 1-tert-butyloxycarbonyl-4-piperidone (40 g, 201 mmol) in anhydrous tetrahydrofuran (250 ml). After addition the mixture was stirred at -78° C. for 1 hour, the cooling bath removed and the mixture stirred at room temperature for 72 hours. The reaction was quenched by the addition of saturated aqueous ammonium chloride (300 ml), stirred for a further 10 minutes and poured into water (500 ml) and extracted with ethyl acetate (3×300 ml). The combined organic solutions were washed with water (500 ml), brine (300 ml), dried (MgSO4) and evaporated to afford the title compound (55 g, 92%); mp 75° C.; δH (250 MHz, CDCl3) 0.19 (9H, s), 1.48 (9H, s), 1.63-1.74 (2H, m), 1.80-1.92 (2H, m), 3.18-3.28 (2H, m), 3.71-3.84 (2H, m); mlz (ES) 298 (M+ +1).

reactant | trimethylsilylacetylene | 241 mmol, 34 ml | C[Si](C)(C)C#C | C5H10Si
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-tert-butyloxycarbonyl-4-piperidone | 201 mmol, 40 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-tert-Butyloxycarbonyl-4-hydroxy-4-(2-trimethylsilylethynyl)-piperidine | 55 g, 92% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#C[Si](C)(C)C)O | C15H27NO3Si
